*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/oscillator_lpe.spi
#else
.include ../../../work/xsch/oscillator.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
.param vdda = 1.8
.param AVDD = {vdda}


.param TAMB = 27
.temp {TAMB}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD_1V8  VDD_1V8  VSS  dc 1.8

IB  VDD_1V8  IB  dc 10u

VOUT_BG  VOUT_BG  VSS  dc 0.8
VREF_BG  VREF_BG  VSS  dc 1.22


*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.options savecurrents
.save all





*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
load {cicname}.raw
set num_threads=4
set color0=white
set color1=black
unset askquit

.option savecurrents




op
tran 0.1n 1u 1p
write


*echo 'Temp ; Freq' > oscillator.csv

*let tcur = -20
*while tcur le 100
*	alterparam TAMB = $&tcur
*	reset
*
*        tran 0.1n 1u 1p
*
*	meas tran Tperiod  TRIG v(VOUTD) VAL=0.9 RISE=1  TARG v(VOUTD) VAL=0.9 RISE=2
*	let Freq = 1/Tperiod
*	echo Temp = $&tcur V  freq = $&freq Hz 
*	echo '$&tcur ; $&freq' >> oscillator.csv
*
*
*	let tcur = tcur + 10
*
*end





quit


.endc

.end
