*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/oscillator_lpe.spi
#else
.include ../../../work/xsch/oscillator.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
.param vdda = 1.8
.param AVDD = {vdda}


.param TAMB = 27
.temp {TAMB}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD_1V8  VDD_1V8  VSS  dc 1.8

IB  VDD_1V8  IB  dc 10u

VOUT_BG  VOUT_BG  VSS  dc 0.8
VREF_BG  VREF_BG  VSS  dc 1.22


*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.options savecurrents
.save all





*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
load {cicname}.raw
set num_threads=4
set color0=white
set color1=black
unset askquit

.option savecurrents

op
tran 0.1n 1u 1p
write

echo 'Temp ; Freq' > oscillator.csv

foreach temp_val -40 -30 -20 -10 0 10 20 30 40 50 60 70 80 90 100 110 120 125
	alterparam TAMB = $temp_val
	reset

	tran 0.1n 1u 1p

	meas tran Tperiod  TRIG v(vout_osc) VAL=0.9 RISE=3  TARG v(vout_osc) VAL=0.9 RISE=4
	let Freq = 1/Tperiod
	echo Temp = $temp_val C  freq = $&freq Hz
	echo '$temp_val ; $&freq' >> oscillator.csv

end





quit


.endc

.end
